US04588749
N-(2-(4-Methylphenyl)ethyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine
The title compound was prepared in the manner described in Example 9 using 3-chlorophenylglyoxal and 2-(4-methylphenyl)ethanamine. Recrystallization of the chromatographed material from cyclohexane gave the title compound m.p. 85-88 (analysed as the hemi-hydrate). τ(CDCl3) 7.7 (3H, s), 7.0-7.5 (6H, m, +2H disappears with D2O), 5.4 (1H, dd), 2.9 (4H, s), 2.6-2.8 (4H, m).

reactant | 3-chlorophenylglyoxal | ClC=1C=C(C=CC1)C(=O)C=O | C8H5ClO2
reactant | 2-(4-methylphenyl)ethanamine | CC1=CC=C(C=C1)CCN | C9H13N
product | N-(2-(4-Methylphenyl)ethyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine | CC1=CC=C(C=C1)CCNCC(C1=CC(=CC=C1)Cl)O | C17H20ClNO
